US06660736B2
f) 5-(4-Fluoro-benzyloxy)-isoindole-1,3-dione
A mixture of 5-hydroxy-isoindole-1,3-dione (200 mg, 1.0 mmol), potassium carbonate (178 mg, 1.05 mmol), 4-fluorobenzylbromide (204 mg, 1.05 mmol) in ethanol (5 mL) was heated at 80° C. overnight. After cooling to room temperature, the reaction mixture was filtered and evaporated. The residue was purified by chromatography (SiO2, heptane-CH2Cl2 2:3 then CH2Cl2— 2N NH3—MeOH 99:1: to 95:5) to afford the title compound (127 mg, 38%) as an off-white solid. MS: m/e=271.1 (M+).

reactant | 5-hydroxy-isoindole-1,3-dione | 1.0 mmol, 200 mg | OC=1C=C2C(NC(C2=CC1)=O)=O | C8H5NO3
reactant | potassium carbonate | 1.05 mmol, 178 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzylbromide | 1.05 mmol, 204 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-(4-Fluoro-benzyloxy)-isoindole-1,3-dione | 127 mg, 38% | FC1=CC=C(COC=2C=C3C(NC(C3=CC2)=O)=O)C=C1 | C15H10FNO3
